US07700641B2
Synthesis of 1′-(diphenylmethyl)-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 1, and making non-critical variations using 1-(diphenylmethyl)-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one to replace 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained (51%) as a white solid: MS (ES+) m/z 446.3 (M+1).

reactant | 1-(diphenylmethyl)-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(=CC=CC=C1)C(N1C(C(C2=CC=CC=C12)(CO)C=1C(=CC2=C(CCO2)C1)O)=O)C1=CC=CC=C1 | C30H25NO4
reactant | 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O | C21H21NO5
product | 1′-(diphenylmethyl)-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | C1(=CC=CC=C1)C(N1C(C2(C3=CC=CC=C13)C1=C(OC2)C=C2OCCC2=C1)=O)C1=CC=CC=C1 | C30H23NO3
